US07777042B2
2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 0.20 g, 0.86 mmoles) was added to a room temperature solution of ((S)-1-Benzyl-2-oxo-ethyl)-carbamic acid benzyl ester (0.24 g, 0.86 mmoles) and 1,2-phenylenediamine (0.093 g, 0.86 mmoles) in CH3CN (10 mL). The reaction mixture was stirred at room temperature for 16 h, and then concentrated in vacuo. The residue was re-dissolved in EtOAc (150 mL), and washed with saturated aqueous NaHCO3 (3×125 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to give a brown oily solid. Purification of the residue by flash chromatography on silica gel eluting with 10-40% EtOAc/heptane afforded 0.091 g (28% yield) of {(S)-1-Benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-carbamic acid benzyl ester as a colorless oil: ES+ LC/MS m/e 372 (M+H), RT=3.03 min; 1H NMR (CDCl3) D9.90 (bd s, 1), 7.68 (bd s, 1), 7.21-7.33 (m, 11), 7.16 (d, 2, J=6.7 Hz), 5.64 (d, 1, J=7.2 Hz), 5.15 (dd, 1, J=15.2, 7.5 Hz), 5.07 (s, 2), 3.45 (d, 2, J=7.5 Hz).

reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 0.86 mmoles, 0.20 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | ((S)-1-Benzyl-2-oxo-ethyl)-carbamic acid benzyl ester | 0.86 mmoles, 0.24 g | C(C1=CC=CC=C1)OC(N[C@H](C=O)CC1=CC=CC=C1)=O | C17H17NO3
reactant | 1,2-phenylenediamine | 0.86 mmoles, 0.093 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | {(S)-1-Benzyl-2-[(E)-2-methylamino-phenylimino]-ethyl}-carbamic acid benzyl ester | 0.091 g, 28% yield | C(C1=CC=CC=C1)OC(N[C@H](/C=N/C1=C(C=CC=C1)NC)CC1=CC=CC=C1)=O | C24H25N3O2
